US04753932
20 ml of ethyl ether and 0.2 ml of α-chloro-orthoxylene were added under nitrogen with stirring to 5.5 g of magnesium turnings and then over an hour, a solution of 32 ml of α-chloro-orthoxylene in 250 ml of ether was added dropwise so as to maintain the temperature at 35° C. After stirring for an hour, a solution of 0.5 M/l of α-chloro-orthoxylene magnesium was obtained.

reactant | α-chloro-orthoxylene | 0.2 ml | ClCC=1C(=CC=CC1)C | C8H9Cl
reactant | magnesium | 5.5 g | [Mg] | Mg
reactant | α-chloro-orthoxylene | 32 ml | ClCC=1C(=CC=CC1)C | C8H9Cl
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | α-chloro-orthoxylene magnesium | [Mg].ClCC=1C(=CC=CC1)C | InChI=1S/C8H9Cl.Mg/c1-7-4-2-3-5-8(7)6-9;/h2-5H,6H2,1H3;
